US05153330
5-Chloro-5-cyano-3-thiapentanamide
A solution of 2-mercaptoacetamide (20 g) in dry pyridine (80 ml) was stirred whilst 2-chloroacrylonitrile (18 ml) was added slowly with ice-bath cooling. After the addition was complete, the ice-bath was removed, and the mixture was stirred for 45 minutes. The resultant mixture contained the title compound. A portion of the mixture was shaken repeatedly with petroleum ether (b.p. 60° to 80° C.) to leave the title compound as a syrup. 'H nmr δ (CD3COCD3) 5.50 (1H,t,J=7HZ, CH2CH), 3.40 (2H, d,J=7HZ, CH2CH), 3.50(2H, s, CH2CN).

reactant | 2-mercaptoacetamide | 20 g | SCC(=O)N | C2H5NOS
reactant | 2-chloroacrylonitrile | 18 ml | ClC(C#N)=C | C3H2ClN
solvent | pyridine | 80 ml | N1=CC=CC=C1 | C5H5N
product | 5-Chloro-5-cyano-3-thiapentanamide | ClC(CSCC(=O)N)C#N | C5H7ClN2OS
